US07223788B2
4-(5-Chloropyridin-2-yloxy)-N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]benzamide
A solution of 0.05 g of N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]-4-hydroxybenzamide, 0.017 g of 2,5-dichloropyridine and 0.064 g of potassium carbonate in 0.8 ml of DMF was heated at 230° C. in a microwave apparatus for 30 minutes. The solution was filtered and purified by preparative HPLC. This resulted in the product with the molecular weight of 436.17 (C24H25ClN4O2); MS (ESI): 437 (M+H+) as hydrotrifluoroacetate.

reactant | N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]-4-hydroxybenzamide | 0.05 g | CN(C1CN(CC1)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)O)=O)C | C19H23N3O2
reactant | 2,5-dichloropyridine | 0.017 g | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | potassium carbonate | 0.064 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
product | 4-(5-Chloropyridin-2-yloxy)-N-[4-(3-dimethylaminopyrrolidin-1-yl)phenyl]benzamide | ClC=1C=CC(=NC1)OC1=CC=C(C(=O)NC2=CC=C(C=C2)N2CC(CC2)N(C)C)C=C1 | C24H25ClN4O2
